US05536718
2-(2-Pyridinyl)benzoic Acid
A mixture of 3.0 g of methyl 2-(2-pyridinyl)benzoate and 600 mg of sodium hydroxide in 50 ml of 9:1 methanol:water is refluxed for 4 hours. The reaction mixture is concentrated in vacuo and the residue dissolved in 50 ml of cold water. The solution is neutralized with glacial acetic acid and the resulting product filtered, washed with water, and dried to give 2.5 g of the desired product: M+ =200.

reactant | methyl 2-(2-pyridinyl)benzoate | 3.0 g | N1=C(C=CC=C1)C1=C(C(=O)OC)C=CC=C1 | C13H11NO2
reactant | sodium hydroxide | 600 mg | [OH-].[Na+]
reactant | water | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 2-(2-Pyridinyl)benzoic Acid | 2.5 g | N1=C(C=CC=C1)C1=C(C(=O)O)C=CC=C1 | C12H9NO2
